US09120749B2
{6-Bromo-4-[4-(morpholinomethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure B, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (144 mg, 0.460 mmol) was reacted with 4-(piperidin-4-ylmethyl)morpholine (102 mg, 0.552 mmol) to afford the desired product (177 mg, 84%) as a yellow solid: ESI MS m/z 458 [C23H28BrN3O2+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.460 mmol, 144 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 4-(piperidin-4-ylmethyl)morpholine | 0.552 mmol, 102 mg | N1CCC(CC1)CN1CCOCC1 | C10H20N2O
product | {6-Bromo-4-[4-(morpholinomethyl)piperidin-1-yl]quinolin-3-yl}(cyclopropyl)methanone | 177 mg, 84% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC(CC1)CN1CCOCC1 | C23H28BrN3O2
